US06573273B1
According to the general method of Example 7, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and chloroformic acid 1-naphthyl ester were combined to provide 1-naphthyl N-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate as a tan powder, m.p. 89.0-92.0 ° C. 1H NMR (300 MHz, DMSO-d6) δ 8.25 (s, 1H), 8.10 (d, J=7.4 Hz, 1H), 8.05 (t, J=5.8 Hz, 1H), 7.96 (d, J=7.6 Hz, 1H), 7.79 (d, J=8.2 Hz, 1H), 7.66-7.45 (m, 6H), 7.30 (m, 1H), 7.19 (d, J=7.5 Hz, 1H), 6.72 (broad s, 2H), 4.67 (t, J=6,9 Hz, 2H), 3.17 (q, J=6.3 Hz, 2H), 1.96 (m, 2H), 1.59 (m, 2H); MS (EI) m/e 426.1929 (426.1930 calcd for C25H23N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | chloroformic acid 1-naphthyl ester | C1(=CC=CC2=CC=CC=C12)OC(=O)Cl | C11H7ClO2
product | 1-naphthyl N-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(OC2=CC=CC1=CC=CC=C21)=O | C25H23N5O2
